US08471005B2
Into a 8-dram vial, Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (89 mg, 0.20 mmol), N,N-Diisopropylethylamine (0.0757 mL, 0.435 mmol), 2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamine and 1-Methoxy-2-propanol (0.71 mL) were added. The reaction mixture was heated at 120° C. for 6 hours. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in CAN. The collected fraction afforded N-(2-{2-[2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide as a yellow solid (32 mg, 30%). LCMS (E/I+) 536.16 (M+H). NMR 1H (DMSO-d6)-8.99 (s, 1H), 8.04 (d, 1H, J=8.09 Hz), 7.95-8.01 (m, 1H), 7.79 (s, 1H), 7.62-7.70 (m, 1H), 7.51-7.59 (m, 2H), 7.06 (s, 1H), 7.02 (d, 1H, J=4.66 Hz), 7.00 (d, 1H, J=4.66 Hz), 6.86 (d, 1H, J=8.22 Hz), 3.88 (s, 3H), 3.20-3.80 (m, 10H), 3.08 (s, 3H), 2.88 (s, 3H), 2.78 (s, 3H).

reactant | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.20 mmol, 89 mg | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | N,N-Diisopropylethylamine | 0.435 mmol, 0.0757 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamine | COC1=C(C=CC(=C1)CN1CCN(CC1)C)N | C13H21N3O
reactant | 1-Methoxy-2-propanol | 0.71 mL | COCC(C)O | C4H10O2
product | N-(2-{2-[2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide | 32 mg, 30% | COC1=C(C=CC(=C1)CN1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C27H33N7O3S
